US06903085B1
To a solution of 1-(3,4-dichlorobenzyl)-4-piperidinamine hydrochloride (3.50 g) in dichloromethane (100 ml) was added methyl 4-chloro-4-oxobutanoate (2.00 g) dropwise. Triethlamine (3.90 g) was added and the reaction stirred under nitrogen for 2 hours. Saturated sodium hydrogen carbonate solution was then added, with the solution being extracted three times with dichloromethane. The pooled organic phase was washed once with water, once with saturated brine and dried over anhydrous magnesium sulfate. After filtration the solvent was removed under reduced pressure to leave methyl 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate (3.00 g).

reactant | 1-(3,4-dichlorobenzyl)-4-piperidinamine hydrochloride | 3.50 g | Cl.ClC=1C=C(CN2CCC(CC2)N)C=CC1Cl
reactant | methyl 4-chloro-4-oxobutanoate | 2.00 g | ClC(CCC(=O)OC)=O | C5H7ClO3
reactant | Triethlamine | 3.90 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 4-{[1-(3,4-dichlorobenzyl)-4-piperidinyl]amino}-4-oxobutanoate | 3.00 g | ClC=1C=C(CN2CCC(CC2)NC(CCC(=O)OC)=O)C=CC1Cl | C17H22Cl2N2O3
